data/rdb19/train.csv
rxn,smiles,ea
1025,[C:14]([C:15](=[C:16]([H:23])[H:24])[C:17](=[O:18])[O:19][H:25])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14]([C:15](=[C:16]([H:23])[H:24])[C:17](=[O:18])[O:19])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])([H:5])[H:25])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],22.39378859271528
1003,[C:14]([O:15][C:16](=[O:17])[C:18](=[C:19]([H:24])[H:25])[C:20]([H:26])([H:27])[H:28])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[O:8][H:13])([H:9])([H:10])[H:11].[H:12][C:14]([H:21])([H:22])[H:23].[O:15][C:16](=[O:17])[C:18](=[C:19]([H:24])[H:25])[C:20]([H:26])([H:27])[H:28],67.30845072295051
4560,[C:13]([C:14]([C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14]([C:15]([H:16])=[N:17][C:18](=[O:19])[H:26])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6])([H:7])([H:8])[H:9].[H:12][H:25],69.12492860882776
5263,[C:1]([C:2]([C:3]([H:4])([H:5])[C:24]([N:23]([C:22](=[C:21]([H:26])[H:27])[H:28])[H:29])([O:25])[H:30])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14]>>[C:1]([C:2]([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:3]1([H:4])([H:5])[C:24]([N:23]([C:22](=[C:21]([H:26])[H:27])[H:28])[H:29])([H:30])[O:25]1,52.853934131679125
5525,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[O:4][C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:7])([H:8])[H:9].[C:5](=[C:6]([H:11])[H:12])[H:10],66.43779913429171
1051,[C:14]([C:15]([C:16]([C:17]([H:30])([H:31])[H:32])([c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:17]([H:30])([H:31])[H:32].[C:1]([C:2]([C:3]([H:4])([H:5])[C:16]([C:15]([C:14]([H:24])([H:25])[H:26])([H:27])[H:28])([c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])[H:29])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],65.7202024369617
2922,[C:16]([C:17]([C:18]([C:19]([H:26])([H:27])[H:28])[C:20]([H:29])([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4]1([C:6](=[C:7]([H:14])[H:15])[H:13])[O:5][C:18]1([C:17]([C:16]([H:21])([H:22])[H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])([H:11])[H:12])([H:8])([H:9])[H:10].[C:20]([H:29])([H:30])[H:31],71.94623491197126
4493,[C:13]([C:14]([C:15]([H:16])[c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32])[H:26])([H:23])([H:24])[H:25].[C:1]([H:7])([H:8])([H:9])[H:27].[C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12],89.20949981338345
3784,[C:13]([O:14][O:15])([H:16])([H:17])[H:18].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([C:4]([H:11])[H:12])([H:10])[O:15][O:14][C:13]([H:16])([H:17])[H:18])([H:8])[H:9])([H:5])([H:6])[H:7],22.395569874875942
1039,[C:14]([O:15][C:16](=[C:17]([H:22])[H:23])[H:21])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[O:8][H:13])([H:9])([H:10])[H:11].[H:12][C:16]([O:15][C:14]([H:18])([H:19])[H:20])([C:17]([H:22])[H:23])[H:21],37.97787103516748
5409,[C:17]([C:18]([C:19]([H:20])[N:21]([C:22](=[O:23])[H:30])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2][c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:9])[H:10].[H:11][C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([H:20])[N:21]([C:22](=[O:23])[H:30])[H:29],28.4030822905479
1311,[O:10][H:11].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[O:10][H:11])[H:6],18.67564347368898
